US04394384
To a suspension of 2-mercapto-4-pyridinecarboxylic acid (7.65 g) in a mixture of tetrahydrofuran (60 ml) and methanol (60 ml) was added a solution of sodium 2-ethylhexanoate in isopropyl alcohol (27.5%) and the mixture was stirred for 2 days at room temperature. The reaction mixture was evaporated and the residue was washed with a mixture of acetone and ethanol. The crystals were collected by filtration dried over phosphorus pentoxide to give disodium 2-sulfido-4-pyridinecarboxylate (8.5 g).

reactant | 2-mercapto-4-pyridinecarboxylic acid | 7.65 g | SC1=NC=CC(=C1)C(=O)O | C6H5NO2S
reactant | sodium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methanol | 60 ml | CO | CH4O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | disodium 2-sulfido-4-pyridinecarboxylate | 8.5 g | [S-]C1=NC=CC(=C1)C(=O)[O-].[Na+].[Na+] | InChI=1S/C6H5NO2S.2Na/c8-6(9)4-1-2-7-5(10)3-4;;/h1-3H,(H,7,10)(H,8,9);;/q;2*+1/p-2
